US06552226B1
Prepared according to General Procedure A using 4-(-N-morpholinyl)-3(-N methyl-morpholinyl)-but-2-enenitrile (45.0 mg, 0.179 mmol), TiCl4.(THF)2 (120 mg, 0.359 mmol), i-Pr2NEt (125 μL, 0.716 mmol), and propionyl chloride (0.54 mL 1M solution HC2Cl2, 054 mmol) in 1.8 mL of CH2Cl2 at −20° C. to provide the pure product in 78% yield 5.7 mg, 0.139 mmol) as a white solid; mp 92-94 ° C.; 95:5 syn-anti:syn-syn by 1H NMR. Syn-anti isomer: IR (film)2974, 2920, 2858, 1637, 1444, 1359; 1112, 1074, 911, 850, 734 cm−1; 1H NMR (400 MHZ, CDCl3) δ 5.11 (s, 1H, CH2═C), 4.95 (s, 1H, CH2═C) 3.75 (d, J=9.2 Hz, 1H, CHCN) 3.47-3.67 (m, 16H, O(CH2CH2,)2N) 3.10 (dq, J=7.5, 15.3 Hz, 1H, (CHCHCN) 2.92 (m, 1H, (OC)CHCH2), 2.54 (dd, J=8.6, 15.0 Hz, 1H, CH2C═CH2) 2.14 (dd, J=5.6, 15.2 Hz, 1H, CH2C═CH2) 1.30 (d, J=6.8 Hz, 3H, CH3), 1.10 (d, J=6.8 Hz, 3H, CH3), 13C NMR (100 MHZ) δ; 173.7, 171.0, 140.8, 116.1, 112.2, 66.8, 66.7, 66.6, 46.0, 45.9, 42.2, 42.0, 40.5, 37.8, 37.2, 33.6, 17.9, 16.4; LRMS (CI) m/z 363 (M)+; HRMS (CI) exact mass calcd for (C19H29N3O4)+ requires m/z 363.2158, found m/z 363.2162.

reactant | 4-(-N-morpholinyl)-3(-N methyl-morpholinyl)-but-2-enenitrile | 0.179 mmol, 45.0 mg | N1(CCOCC1)CC(=CC#N)C1N(CCOC1)C | C13H21N3O2
reactant | propionyl chloride | 1M, 0.54 mL | C(CC)(=O)Cl | C3H5ClO
solvent | CH2Cl2 | 1.8 mL | C(Cl)Cl | CH2Cl2
catalyst | TiCl4 | Cl[Ti](Cl)(Cl)Cl
product | i-Pr2NEt | 0.716 mmol, 125 μL, 78% yield | CCN(C(C)C)C(C)C | C8H19N
